US06949542B2
8-Chloro-4-[3-(6-cyclopropyl-pyridin-3-yl)-phenyl]-7-methyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (4-chloro-2-{3-[3-(6-cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-methyl-phenyl)-carbamic acid tert-butyl ester (Example M143) (332 mg, 0.638 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a white solid (163 mg, 64%).

reactant | (4-chloro-2-{3-[3-(6-cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-methyl-phenyl)-carbamic acid tert-butyl ester | 0.638 mmol, 332 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)C1CC1)=O)=O | C29H30ClN3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-4-[3-(6-cyclopropyl-pyridin-3-yl)-phenyl]-7-methyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2C=NC(=CC2)C2CC2)=O)C1)C | C24H20ClN3O
